US04027023
A solution of ethyl 6-(methoxyphenyl)-1,4-dihydrocinnolin-3-yl carboxylate in ethyl acetate (obtained as described below) was heated to boiling point and manganese dioxide (15 g.) was added. The mixture was heated under reflux for 30 minutes and then filtered. The filtrate was evaporated to approx. 1 ml. in vacuo and the residue was applied to a silica column (30 g. Kieselgel 60). The column was eluted with a 50% v/v mixture of ethyl acetate and petroleum ether (b.p. 60°-80° C.). The appropriate fractions were combined and evaporated in vacuo, and the crystalline residue was recrystallised from aqueous ethanol to give ethyl 6-(methoxyphenyl)cinnolin-3-yl carboxylate m.p. 143°-145° C. (believed to be a mixture of isomers varying in the position of the methoxy radical on the phenyl substituent).

reactant | ethyl 6-(methoxyphenyl)-1,4-dihydrocinnolin-3-yl carboxylate | COC1=C(C=CC=C1)C=1C=C2CC(=NNC2=CC1)C(=O)OCC | C18H18N2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 15 g | [O-2].[O-2].[Mn+4]
product | ethyl 6-(methoxyphenyl)cinnolin-3-yl carboxylate | COC1=C(C=CC=C1)C=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C18H16N2O3
